US07435815B2
N-(4-Cyano-benzyl)-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid with 4-ethylaminomethyl-benzonitrile

reactant | [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C15H16N2O5S
reactant | 4-ethylaminomethyl-benzonitrile | C(C)NCC1=CC=C(C#N)C=C1 | C10H12N2
product | N-(4-Cyano-benzyl)-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide | C(#N)C1=CC=C(CN(C(CN(S(=O)(=O)C=2C(=CC=CC2)C)C=2C=NC(=CC2)OC)=O)CC)C=C1 | C25H26N4O4S
